US05665763
To a suspension of ethanol (200 mL) and 300 mg of 5% palladium on carbon was added 14.8 g (82.1 mmol) of 3-(5-ethyl-2-furanyl)propenoate at room temperature and the mixture was placed on a Paar hydrogenator and hydrogenated with H2. Palladium on carbon was filtered off bypassing the reaction mixture through a filter aid, Super-Cel™ and the residue was washed with ethanol several times. The filtrate was concentrated in vacuo, methylene chloride was added to the residue and the solvent was removed in vacuo to afford 14.9 g methyl 3-(5-ethyl-2-furanyl)propanoate. This ester was used without further purification.

reactant | 3-(5-ethyl-2-furanyl)propenoate | 82.1 mmol, 14.8 g | C(C)C1=CC=C(O1)C=CC(=O)[O-]
reactant | ethanol | 200 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | methyl 3-(5-ethyl-2-furanyl)propanoate | 14.9 g | C(C)C1=CC=C(O1)CCC(=O)OC | C10H14O3
